US07034039B2
To a mixture of (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl)methyl methanesulfonate (39 g, 0.75 mmol) in acetonitrile (5 mL) and tetrahydrofuran (4 mL) were added trimethylsilyl cyanide (0.15 mL, 1.1 mmol) and a solution of 1.0 M tetrabutylammonium fluoride: in tetrahydrofuran (1.1 mL), and then the mixture was stirred at 80° C. for 30 min. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:2 (v/v)) to give tert-butyl[6-(cyanomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.25 g, 75%) as a colorless oil.

reactant | (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl)methyl methanesulfonate | 0.75 mmol, 39 g | CS(=O)(=O)OCC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CNC(=O)OC(C)(C)C)C1=CC=CC=C1 | C27H34N2O6S
reactant | trimethylsilyl cyanide | 1.1 mmol, 0.15 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.1 mL | O1CCCC1 | C4H8O
product | tert-butyl[6-(cyanomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.25 g, 75% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CC#N)=O)CC(C)C)=O | C27H31N3O3
